US08980937B2
To the solution of 3-(3,5-dichlorophenyl)-3-(trifluoromethyl)pyrrolidine (0.30 g) and 4-fluorobenzonitrile (0.12 g) in DMSO (dimethylsurufoxide) was added potassium carbonate (0.27 g), and the mixture was heated with stirring at 120° C. for 6 hours. The mixture was cooled to room temperature and then poured onto water, which was then extracted twice with ethyl acetate. The organic layer was combined, which was then washed with water and dried over anhydrous magnesium sulfate. After the drying agent was filtered off, the solvent was distilled away under the reduced pressure, and the residue was then purified by silica gel chromatography to yield 4-[3-(3,5-dichlorophenyl)-3-(trifluoromethyl)pyrrolidin-1-yl]benzonitrile (0.05 g). 1H-NMR (CDCl3) δ: 2.51-2.62 (1H, m), 2.86-2.94 (1H, m), 3.56-3.61 (2H, m), 3.80 (1H, d), 4.12 (1H, d), 6.59 (2H, d), 7.26 (2H, br s), 7.41 (1H, t), 7.52 (2H, d).

reactant | 3-(3,5-dichlorophenyl)-3-(trifluoromethyl)pyrrolidine | 0.30 g | ClC=1C=C(C=C(C1)Cl)C1(CNCC1)C(F)(F)F | C11H10Cl2F3N
reactant | 4-fluorobenzonitrile | 0.12 g | FC1=CC=C(C#N)C=C1 | C7H4FN
reactant | potassium carbonate | 0.27 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMSO | CS(=O)C | C2H6OS
product | 4-[3-(3,5-dichlorophenyl)-3-(trifluoromethyl)pyrrolidin-1-yl]benzonitrile | 0.05 g | ClC=1C=C(C=C(C1)Cl)C1(CN(CC1)C1=CC=C(C#N)C=C1)C(F)(F)F | C18H13Cl2F3N2
